US06969710B2
4-Chloro-N-[5-(4-methyl-1,4-diazepan-1-yl)-2-nitrophenyl]benzenesulfonamide (Scheme 4)
4-chlorobenzene sulfonamide (3.5 g, 18.3 mmol) was added slowly to a suspension of sodium hydride (1.6 g, 55% suspension in mineral oil, 36.6 mmol) in anhydrous DMF (50 mL) under an atmosphere of nitrogen. The mixture was warmed to 40° C. for 1 hour and 2,4-difluoronitrobenzene (2 mL) was added dropwise. This mixture was stirred at 60° C. overnight. The cooled reaction mixture was poured into hydrochloric acid (1 N, 250 mL) and extracted with ethyl acetate (2×50 mL). The organic extracts were washed with water, dried over MgSO4 and evaporated to give a yellow solid. The product was re-crystallized from ethanol. Yield 2.4 g (40%). 1H NMR (400 MHz, CDCl3) δ 6.85 (m, 1 H), 7.48 (AB, J=8.3 Hz, 2 H), 7.56 (dd, J=10.01, 2.68 Hz, 1 H), 7.84 (AB, J=8.3 Hz, 2 H), 8.21 (dd, J=9.28, 5.61 Hz, 1 H), 10 (bs, 1 H). Calculated N, 8.47%; C, 43.58%; S, 9.70%; H, 2.44%. Found N, 8.54%; C, 43.89%; S, 10.10%; H, 2.76%. 4-Chloro-N-[5-fluoro-2-nitrophenyl]benzenesulfonamide (1 g, 3 mmol) and N-methylhomopiperazine (0.4 mL) were heated together at 130° C. for 3 hours. The product was allowed to cool, dissolved in CH2Cl2 (50 mL) and washed with aqueous sodium bicarbonate. The organic phase was dried over MgSO4 and evaporated to give 1.05 g of a yellow solid which was re-crystallized from toluene. Yield 0.65 g (51%). 1H NMR (400 MHz, CDCl3) δ 1.98 (q, J=5.62 Hz, 1 H), 2.37 (s, 3 H), 2.52 (t, J=5.62 Hz, 2 H), 2.67 (t, J=5.12 Hz, 2 H), 3.55 (t, J=6.35 Hz, 2 H), 3.60 (t, J=5.12 Hz, 2 H), 6.34 (dd, J=9.77, 2.68 Hz, 1 H), 6.86 (d, J=2.68 Hz, 1 H), 7.43 (ab, J=8.79 Hz, 2 H), 7.79 (ab, J=8.79 Hz, 2 H), 8.01 (d, J=9.77 Hz, 1 H), 11.6 (br s, 1 H). Calculated N, 13.19%; C, 50.88%; H, 4.98%. Found N, 13.27%; C, 50.99%; H, 4.83%.

reactant | 4-chlorobenzene sulfonamide | 18.3 mmol, 3.5 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | sodium hydride | 36.6 mmol, 1.6 g | [H-].[Na+]
reactant | 2,4-difluoronitrobenzene | 2 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrochloric acid | 1 N, 250 mL | Cl | ClH
reactant | 4-Chloro-N-[5-fluoro-2-nitrophenyl]benzenesulfonamide | 3 mmol, 1 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H8ClFN2O4S
reactant | N-methylhomopiperazine | 0.4 mL | CN1CCNCCC1 | C6H14N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[5-(4-methyl-1,4-diazepan-1-yl)-2-nitrophenyl]benzenesulfonamide | 1.05 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1CCN(CCC1)C)[N+](=O)[O-] | C18H21ClN4O4S
